US08183351B2
Avermectin B1 monosaccharide (III-1) (—C22R1-A-C23R2— : —HC═CH—)
A solution of 13.52 g of abamectin (II-1) in 170 ml of 2-propanol and 1.7 ml of conc. sulphuric acid is stirred at room temperature for 20 hours. After addition of saturated sodium bicarbonate solution, the mixture is extracted with dichloromethane, the organic phase is dried over sodium sulphate and the solvent is removed under reduced pressure. The residue is purified on silica gel (silica gel 60—Merck, particle size: 0.04 to 0.063 mm) using cyclohexane/ethyl acetate (5:2). This gives 6.83 g of avermectin B1 monosaccharide (III-1) as a colourless solid.

reactant | abamectin | 13.52 g | CC[C@H](C)[C@@H]1[C@H](C=C[C@@]2(O1)C[C@@H]3C[C@H](O2)C/C=C(/[C@H]([C@H](/C=C/C=C/4\CO[C@H]5[C@@]4([C@@H](C=C([C@H]5O)C)C(=O)O3)O)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@H]([C@@H](O7)C)O)OC)OC)\C)C.C[C@H]1/C=C/C=C/2\CO[C@H]3[C@@]2([C@@H](C=C([C@H]3O)C)C(=O)O[C@H]4C[C@@H](C/C=C(/[C@H]1O[C@H]5C[C@@H]([C@H]([C@@H](O5)C)O[C@H]6C[C@@H]([C@H]([C@@H](O6)C)O)OC)OC)\C)O[C@]7(C4)C=C[C@@H]([C@H](O7)C(C)C)C)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-propanol | 170 ml | CC(C)O | C3H8O
solvent | sulphuric acid | 1.7 ml | S(O)(O)(=O)=O | H2O4S
product | Avermectin B1 monosaccharide | C[C@H]1/C=C/C=C/2\CO[C@H]3[C@@]2([C@@H](C=C([C@H]3O)C)C(=O)O[C@H]4C[C@@H](C/C=C(/[C@H]1OC5CC(C(C(O5)C)O)OC)\C)O[C@]6(C4)C=C[C@@H]([C@H](O6)C(C)C)C)O | C40H58O11
